US07067540B2
1-benzyl-4-(benzyloxy)-3-vinylpyridin-2(1H)-one
A solution of 1-benzyl-4-(benzyloxy)-3-iodopyridin-2 (1H)-one (1.9 g, 4.56 mmol) and vinyl-tri-butyltin (2.5 mL) in acetonitrile (200 mL) containing DMF (2.0 mL) was degassed using house vacuum and purged with argon. Then added PdCl2(PPh3)2 (0.3 g) and the mixture was heated at 65° C. under argon atmosphere for 4 h, with stirring. The solvents were distilled in vacuo, and the residue was triturated with EtOAc and filtered through a pad of celite. The filtrate was concentrated and the residue was purified by silica gel flash chromatography using 25% EtOAc in hexanes to give the title compound (0.75 g. 50%) as an orange colored solid.

reactant | 1-benzyl-4-(benzyloxy)-3-iodopyridin-2 (1H)-one | 4.56 mmol, 1.9 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1)OCC1=CC=CC=C1)I)=O | C19H16INO2
reactant | vinyl-tri-butyltin | 2.5 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1-benzyl-4-(benzyloxy)-3-vinylpyridin-2(1H)-one | 0.75 g, 50% | C(C1=CC=CC=C1)N1C(C(=C(C=C1)OCC1=CC=CC=C1)C=C)=O | C21H19NO2
